US09086390B2
77.4 g (0.66 mol) of 4-aminobenzonitrile and 150 g (1.31 mol) of sodium chloroacetate were suspended in 1.1 L of water, and the resulting mixture was stirred at reflux temperature for 6.5 hours. After cooling to 0° C., the resulting suspension was stirred at this temperature overnight. The solid was filtered and washed with 200 mL of water. The resulting solid was suspended in 200 mL of ethyl acetate and stirred at room temperature for 1 hour. The solid was filtered, washed with 400 mL of ethyl acetate and dried at 60° C. under vacuum for 5 hours to yield 84.5 g of 2-(4-cyanophenylamino)acetic acid as an off-white solid. Yield: 73.2%. Purity (HPLC, method 3): 98.4%.

reactant | 4-aminobenzonitrile | 0.66 mol, 77.4 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | sodium chloroacetate | 1.31 mol, 150 g | ClCC(=O)[O-].[Na+]
solvent | water | 1.1 L | O | H2O
product | 2-(4-cyanophenylamino)acetic acid | 84.5 g, Yield: 73.2% | C(#N)C1=CC=C(C=C1)NCC(=O)O | C9H8N2O2
